US08053436B1
(±)-1-(3,6-Dibromo-carbazol-9-yl)-3-[4-(2-hydroxy-3-methylamino-propyl)-piperazin-1-yl]-propan-2-ol
To (±)-1-(3,6-dibromo-carbazol-9-yl)-3-(4-oxiranylmethyl-piperazin-1-yl)-propan-2-ol (0.110 g, 0.21 mmol) is added methyl amine (3 mL, 2M in MeOH). The resulting mixture was stirred for 16 hr at rt. Concentration in vacuo, flash chromatography on a 2×14 cm2 column of SiO2 using (ACN:(aqueous NH4OH-25%)) (5:1) as eluting solvent gives the title compound as a white foam in a 90% yield. M.p.: 65-75° C. Slow addition of HCl (1 mL, 1M in Et2O) into a solution of the above compound in DCM (2 mL) gives the hydrochloride salt of the title compound (0.39 g) as a white solid in a 35% yield.

reactant | (±)-1-(3,6-dibromo-carbazol-9-yl)-3-(4-oxiranylmethyl-piperazin-1-yl)-propan-2-ol | 0.21 mmol, 0.110 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CN1CCN(CC1)CC1OC1)O | C22H25Br2N3O2
reactant | methyl amine | 2M, 3 mL | CN | CH5N
product | (±)-1-(3,6-Dibromo-carbazol-9-yl)-3-[4-(2-hydroxy-3-methylamino-propyl)-piperazin-1-yl]-propan-2-ol | 90% yield | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CC(CN1CCN(CC1)CC(CNC)O)O | C23H30Br2N4O2
